US04518597
8-[4-(3,4-Dimethoxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 8-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,4-dimethoxy-thiophenol.

reactant | 8-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C14H18ClNO3
reactant | 3,4-dimethoxy-thiophenol | COC=1C=C(C=CC1OC)S | C8H10O2S
product | 8-[4-(3,4-Dimethoxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)SCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C22H27NO5S
